US07060700B2
6-(4-dimethylaminobutylamino)-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-3-carboxamide
A mixture of 4-dimethylaminobutylamine (5 ml) and 6-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-3-carboxamide (0.181 g) was stirred and heated to 100° C. for 16 hours. The mixture was poured into water (50 ml) and stirred for 20 minutes. The resultant solid was isolated, washed with diethyl ether and under vacuum at 40° C. There was thus obtained the title compound (0.17 g); NMR Spectrum: (DMSOd6) 1.4-1.6 (m, 4H), 2.1 (s, 6H), 2.19 (s, 3H), 2.21 (m, 2H), 3.52 (m, 6H, 3.72 (m, 4H), 6.49 (d, 1H), 7.14 (m, 2H), 7.21 (m, 2H), 7.54 (d, 1H), 7.78 (s, 1H), 7.85 (d, 1H), 8.27 (d, 1H), 8.64 (s, 1H), 9.51 (s, 1H), 10.26 (s, 1H); Mass Spectrum M+H+ 532.

reactant | 4-dimethylaminobutylamine | 5 ml | CN(CCCCN)C | C6H16N2
reactant | 6-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-3-carboxamide | 0.181 g | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C23H22ClN5O3
solvent | water | 50 ml | O | H2O
product | 6-(4-dimethylaminobutylamino)-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-3-carboxamide | 0.17 g | CN(CCCCNC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)C | C29H37N7O3
